data/polar.json
{"reaction_name": "Anionic epoxide rearrangement", "rsmi": "[CH:1]1([CH3:2])[O:3][CH2:6][CH:5]1[O-:4]>>[CH:1]([CH3:2])([CH:5]=[O:3])[CH2:6][O-:4]", "epd": [["Sigma-/Sigma+", [5, 6], [1, 6]], ["Sigma-/Sigma+", [1, 3], [3, 5]], ["Sigma-/Sigma+", [4, 5], [4, 6]], ["Sigma-/Pi+", [3, 6], [3, 5]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:1]1([Cl:16])=[C:27]([Cl:12])[C:28]([Cl:22])=[C:9]([Cl:19])[C:26]([Cl:3])([Cl:4])[C:13]1=[O:17].[c:2]1([S:18](=[O:23])(=[O:24])[CH-:29][c:8]2[cH:6][cH:20][cH:25][cH:21][cH:7]2)[cH:10][cH:14][cH:5][cH:15][cH:11]1>>[c:1]1([Cl:16])[c:13]([O-:17])[c:26]([Cl:4])[c:9]([Cl:19])[c:28]([Cl:22])[c:27]1[Cl:12].[c:2]1([S:18](=[O:23])(=[O:24])[CH:29]([Cl:3])[c:8]2[cH:6][cH:20][cH:25][cH:21][cH:7]2)[cH:10][cH:14][cH:5][cH:15][cH:11]1", "epd": [["LP-/Sigma+", [29], [29, 3]], ["Sigma-/Pi+", [3, 26], [26, 13]], ["Pi-/LP+", [13, 17], [17]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[CH2:2]1[CH2:13][CH2:5][NH:25][C:11]2=[N:26][CH2:3][CH2:14][CH2:21][N:17]12.[cH:1]1[cH:4][cH:16][cH:7][c:8]2[c:6]1[N+:22]([CH3:10])=[CH:15][C:12]2=[CH:9][c:20]1[cH:18][cH:23][cH:27][cH:24][cH:19]1>>[cH:1]1[cH:4][cH:16][cH:7][c:8]2[c:6]1[n:22]([CH3:10])[cH:15][c:12]2[CH:9]([c:20]1[cH:18][cH:23][cH:27][cH:24][cH:19]1)[N:26]1[CH2:3][CH2:14][CH2:21][N+:17]2=[C:11]1[NH:25][CH2:5][CH2:13][CH2:2]2", "epd": [["LP-/Pi+", [17], [11, 17]], ["Pi-/Sigma+", [26, 11], [26, 9]], ["Pi-/Pi+", [9, 12], [12, 15]], ["Pi-/LP+", [15, 22], [22]]]}
{"reaction_name": "Michael addition", "rsmi": "[O:1]=[C:27]1[N:5]([CH3:24])[C:26](=[O:8])[N:6]([CH3:25])[C:28](=[O:2])[C:15]1=[CH:20][c:9]1[cH:30][cH:3][c:16]([O:12][CH3:10])[cH:4][cH:31]1.[cH:7]1[cH:17][cH:13][c:22]2[c:11]([cH:29]1)[CH:32]([Zn-:21]([Cl:18])[Cl:19])[CH:23]=[CH:14]2>>[Cl:18][Zn:21][Cl:19].[O-:1][c:27]1[n:5]([CH3:24])[c:26](=[O:8])[n:6]([CH3:25])[c:28](=[O:2])[c:15]1[CH:20]([c:9]1[cH:30][cH:3][c:16]([O:12][CH3:10])[cH:4][cH:31]1)[CH:32]1[c:11]2[c:22]([cH:13][cH:17][cH:7][cH:29]2)[CH:14]=[CH:23]1", "epd": [["Sigma-/Sigma+", [32, 21], [32, 20]], ["Pi-/Pi+", [20, 15], [15, 27]], ["Pi-/LP+", [27, 1], [1]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:3]1([C:6](=[O:22])[O:30][CH3:8])[CH2:11][CH2:26][CH2:23][N:29]1[C:24]1=[CH:14][CH2:5][CH2:27][CH2:18][CH2:7]1.[N+:1](=[O:2])([c:13]1[cH:10][c:15]([N+:19](=[O:9])[O-:21])[cH:20][c:12]2[c:28]1[n:17][o:25][n+:31]2[O-:4])[O-:16]>>[N+:1](=[O:2])([C:13]1=[CH:10][C:15](=[N+:19]([O-:9])[O-:21])[CH:20]([CH:14]2[CH2:5][CH2:27][CH2:18][CH2:7][C:24]2=[N+:29]2[CH:3]([C:6](=[O:22])[O:30][CH3:8])[CH2:11][CH2:26][CH2:23]2)[c:12]2[c:28]1[n:17][o:25][n+:31]2[O-:4])[O-:16]", "epd": [["LP-/Pi+", [29], [24, 29]], ["Pi-/Sigma+", [14, 24], [14, 20]], ["Pi-/Pi+", [20, 15], [15, 19]], ["Pi-/LP+", [19, 9], [9]]]}
{"reaction_name": "Brown allylation", "rsmi": "[CH:1]([CH2:2][B:14]([CH3:8])[CH3:9])=[CH2:6].[O:3]=[CH:5][c:4]1[cH:12][cH:10][cH:7][cH:11][cH:13]1>>[CH:1]([CH2:2][CH:5]([O:3][B:14]([CH3:8])[CH3:9])[c:4]1[cH:12][cH:10][cH:7][cH:11][cH:13]1)=[CH2:6]", "epd": [["Pi-/Sigma+", [3, 5], [3, 14]], ["Sigma-/Sigma+", [2, 14], [2, 5]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:1](#[N:9])[C:19]([C:2]#[N:10])=[CH:4][c:21]1[cH:6][cH:15][cH:22][cH:16][cH:7]1.[CH3:3][C:8](=[C:5]=[N-:11])[c:12]1[cH:13][cH:17][cH:20][cH:18][cH:14]1>>[C:1](=[N-:9])=[C:19]([C:2]#[N:10])[CH:4]([C:8]([CH3:3])([C:5]#[N:11])[c:12]1[cH:13][cH:17][cH:20][cH:18][cH:14]1)[c:21]1[cH:6][cH:15][cH:22][cH:16][cH:7]1", "epd": [["LP-/Pi+", [11], [5, 11]], ["Pi-/Sigma+", [8, 5], [8, 4]], ["Pi-/Pi+", [4, 19], [19, 1]], ["Pi-/LP+", [1, 9], [9]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:8](=[O+:34][CH3:33])[c:37]1[cH:20][cH:18][cH:14][cH:19][cH:21]1.[c:1]1([B-:22]2([c:23]3[cH:15][c:6]([C:3]([F:27])([F:28])[F:29])[cH:10][c:7]([C:4]([F:30])([F:31])[F:32])[cH:16]3)[O:25][CH2:35][C:17]([CH3:12])([CH3:13])[CH2:36][O:26]2)[s:9][c:5]([CH3:24])[cH:2][cH:11]1>>[C:3]([c:6]1[cH:10][c:7]([C:4]([F:30])([F:31])[F:32])[cH:16][c:23]([B-:22]2=[O+:25][CH2:35][C:17]([CH3:12])([CH3:13])[CH2:36][O:26]2)[cH:15]1)([F:27])([F:28])[F:29].[c:1]1([CH:8]([O:34][CH3:33])[c:37]2[cH:20][cH:18][cH:14][cH:19][cH:21]2)[s:9][c:5]([CH3:24])[cH:2][cH:11]1", "epd": [["LP-/Pi+", [25], [22, 25]], ["Sigma-/Sigma+", [1, 22], [1, 8]], ["Pi-/LP+", [8, 34], [34]]]}
